US05597832
54b. 2-propyl-4-((2-tetrahydropyranyloxy)methyl)thiazole-5-carboxaldehyde
A solution of 2-propyl-4-((2-tetrahydropyranyloxy)methyl)thiazole (12.0 g, 49.8 mmol), from step 548 above, in 120 mL of THF was cooled to -78° C. and treated with n-butyllithium (20.0 mL, 2.5M solution in hexanes). The reaction mixture was stirred at -78° C. for 30 minutes, and 5.46 g (74.7 mmol) of DMF was added. The reaction mixture was stirred at -78° C. for 1.5 hours, then warmed to room temperature and quenched with satd NH4Cl solution. The mixture was partitioned between water and ethyl acetate. The organic extract was washed with water and brine, dried over MgSO4, and concentrated to afford 13.6 g of the title product as a viscous oil, which was taken to the next step without further purification. NMR (CDCl3) δ:10.32 (s, 1H), 5.15 (d, J=12 Hz, 1H), 4.88 (d, J=12 Hz, 1H), 4.81 (t, J=3 Hz, 1H), 3.92-3.82 (m, 1H), 3.61-3.47 (m, 1H), 2.99 (t, J=7 Hz, 2H), 1.9-1.5 (m, 8H), 1.03 (t, J=7 Hz, 3H).

reactant | 2-propyl-4-((2-tetrahydropyranyloxy)methyl)thiazole | 49.8 mmol, 12.0 g | C(CC)C=1SC=C(N1)COC1OCCCC1 | C12H19NO2S
reactant | n-butyllithium | 2.5M, 20.0 mL | C(CCC)[Li]
reactant | DMF | 74.7 mmol, 5.46 g | CN(C)C=O | C3H7NO
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | 2-propyl-4-((2-tetrahydropyranyloxy)methyl)thiazole-5-carboxaldehyde | 13.6 g | C(CC)C=1SC(=C(N1)COC1OCCCC1)C=O | C13H19NO3S
